US09371319B2
Preparation 142: 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-c]pyridine
6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 27 mg 0.10 mmole) and 2-bromopyrimidine (24 mg, 0.15 mmole) were dissolved in DMA (0.7 ml) and potassium carbonate (20 mg, 0.14 mmole) and copper(I) iodide (4.0 mg, 0.022 mmole) were added. The reaction was placed under argon and heated by microwave at 210° C. for 60 minutes. The reaction was taken up in ethyl acetate (25 mL) and the solution washed with water (3×7 mL) and brine. The combined organic layers were dried and concentrated in vacuo. The residue was purified using preparative TLC eluting with ethyl acetate to afford the title compound (31 mg). 1H-NMR (CDCl3, 500 MHz): 3.95 (s, 3H), 6.73 (d, J=0.95 Hz), 7.34 (s, 1H) under 7.34 (t, J=5.04 Hz, 1H), 7.53 (s, 1H), 8.11 (t, J=0.95 Hz, 1H), 8.66 (d, J=0.95 Hz, 1H), 8.85 (d, J=5.04 Hz, 2H),

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.10 mmole, 27 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | 2-bromopyrimidine | 0.15 mmole, 24 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | potassium carbonate | 0.14 mmole, 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 0.7 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.022 mmole, 4.0 mg | [Cu]I
product | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1-(pyrimidin-2-yl)-1H-pyrrolo[3,2-c]pyridine | 31 mg | BrC1=CC2=C(C=N1)C=C(N2C2=NC=CC=N2)C=2C=NN(C2)C | C15H11BrN6
